US05389633
Production of 4-hydroxy-3,3-dimethyl-1-butanesulfonamide
While a suspension of 0.35 g of lithium aluminum hydride in 30 ml of tetrahydrofuran was stirred with ice-cooling, a solution of 1.5 g of ethyl 4-aminosulfonyl-2,2-dimethylbutyrate in 8 ml of tetrahydrofuran was added dropwise. After completion of dropwise addition, the mixture was stirred at 0° C. for 30 minutes and, then, at room temperature for 30 minutes. To this reaction mixture was added aqueous tetrahydrofuran for decomposition of excess lithium aluminum hydride and the mixture was neutralized with 2N-hydrochloric acid and extracted with ethyl acetate. The extract was washed with water and dried (MgSO4) and the solvent was distilled off. The residue was subjected to silica gel column chromatography and elution was carried out with hexane-ethyl acetate (1:1) to provide 0.94 g of the title compound. m.p.: 75°-76° C.

reactant | lithium aluminum hydride | 0.35 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | ethyl 4-aminosulfonyl-2,2-dimethylbutyrate | 1.5 g | NS(=O)(=O)CCC(C(=O)OCC)(C)C | C8H17NO4S
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 8 ml | O1CCCC1 | C4H8O
product | 4-hydroxy-3,3-dimethyl-1-butanesulfonamide | 0.94 g | OCC(CCS(=O)(=O)N)(C)C | C6H15NO3S
